US06083966
A mixture of 2,4-dihydroxybenzaldehyde (5.0 g, 36.2 mmol), sodium acetate (5.94 g, 72.4 mmol), nitroethane (5.44 g, 72.4 mmol) and glacial acetic acid (10 ml) was refluxed for 6 hours. After cooling, the mixture was poured onto ice (100 g) and extracted with ethyl acetate (4×50 ml). The combined organic layers were washed with saturated NaHCO3 until the pH of the aqueous layer remained at 8, dried (Na2SO4) and the solvent removed in vacuo. Flash chromatography (SiO2, cyclohexane:ethyl acetate=1:1) afforded 2,4-dihydroxybenzonitrile (2.87 g, 59%) as a pale yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 6.33 (d, 1H, J=8.6 Hz), 6.43 (s, 1H), 7.37 (d, 1H, J=8.6 Hz), 10.35 (s, 1H), 10.78 (s, 1H). IR (KBr) 2200 cm-1.

reactant | 2,4-dihydroxybenzaldehyde | 36.2 mmol, 5.0 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | sodium acetate | 72.4 mmol, 5.94 g | C(C)(=O)[O-].[Na+]
reactant | nitroethane | 72.4 mmol, 5.44 g | [N+](=O)([O-])CC | C2H5NO2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2,4-dihydroxybenzonitrile | 2.87 g, 59% | OC1=C(C#N)C=CC(=C1)O | C7H5NO2
